US05264454
To a solution of 5-(3,5-di-tert-butyl-4-hydroxybenzoyl)-6-methoxyindan (3.8 g) in dichloromethane (30 ml) was added boron tribromide-dichloromethane (1:2, 3 ml) dropwise with ice-cooling and stirring. The mixture was stirred under ice-cooling for 15 minutes, after which ethanol (5 ml) was added dropwise. The mixture was then washed with water and dried (MgSO4) and the solvent was distilled off. To the residue was added hexane to give crystals of 5-(3,5-di-tert-butyl-4-hydroxybenzoyl)-6-hydroxyindan (3.06 g, 83.6%). Recrystallization from ethanol gave light yellow prisms, m.p. 155°-156° C.

reactant | 5-(3,5-di-tert-butyl-4-hydroxybenzoyl)-6-methoxyindan | 3.8 g | C(C)(C)(C)C=1C=C(C(=O)C=2C=C3CCCC3=CC2OC)C=C(C1O)C(C)(C)C | C25H32O3
reactant | boron tribromide dichloromethane | 3 ml | B(Br)(Br)Br.ClCCl
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-(3,5-di-tert-butyl-4-hydroxybenzoyl)-6-hydroxyindan | 3.06 g, 83.6% | C(C)(C)(C)C=1C=C(C(=O)C=2C=C3CCCC3=CC2O)C=C(C1O)C(C)(C)C | C24H30O3
